US06790844B2
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-(2-hydroxymethylindan-5-yl)isoquinoline dihydrochloride
The resulting 1-(4-ethylpiperazin-1-yl)-3-(2-ethoxycarbonylindan-5-yl)isoquinoline (1.06 g) was dissolved in tetrahydrofuran (6 ml). Under cooling with a cooler of sodium chloride and ice, the solution was added to a suspension of lithium aluminum hydride (0.10 g) in tetrahydrofuran (10 ml), and the mixture was stirred for 20 min. To the resulting solution were sequentially added water (100 ml), a 5N aqueous solution of sodium hydroxide (100 ml) and water (300 ml), and the resulting precipitates were filtered off. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 0.35 g of the free compound of the title compound as a pale yellow amorphous.

reactant | 1-(4-ethylpiperazin-1-yl)-3-(2-ethoxycarbonylindan-5-yl)isoquinoline | 1.06 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=C2CC(CC2=CC1)C(=O)OCC | C27H31N3O2
reactant | sodium chloride | [Cl-].[Na+]
reactant | lithium aluminum hydride | 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylpiperazin-1-yl)-3-(2-hydroxymethylindan-5-yl)isoquinoline dihydrochloride | 0.35 g | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=C2CC(CC2=CC1)CO | InChI=1S/C25H29N3O.2ClH/c1-2-27-9-11-28(12-10-27)25-23-6-4-3-5-20(23)16-24(26-25)21-8-7-19-13-18(17-29)14-22(19)15-21;;/h3-8,15-16,18,29H,2,9-14,17H2,1H3;2*1H
